US07786114B2
The product is prepared by following the procedure described in example 34 stage (k), starting with 0.110 g of 5,6-dimethoxy-1-methyl-3-[4-(thiophen-2-ylsulfanylmethyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34 stage (k) and 0.8 cm3 of 5N potassium hydroxide. 0.080 g of 5,6-dimethoxy-1-methyl-3-[4-(thiophen-2-ylsulfanylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine is obtained with the following characteristics:

reactant | 5,6-dimethoxy-1-methyl-3-[4-(thiophen-2-ylsulfanylmethyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine | 0.110 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CSC=1SC=CC1)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C29H26N4O4S3
reactant | potassium hydroxide | 5N, 0.8 cm3 | [OH-].[K+]
product | 5,6-dimethoxy-1-methyl-3-[4-(thiophen-2-ylsulfanylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine | 0.080 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CSC=1SC=CC1)N2)OC | C22H20N4O2S2
